US04900353
Preparation of N-[(4,6-Dimethylpyrimidin-2-yl)aminocarbonyl]-3-methyl-2-pyridinesulfonamide-1-oxide
To a stirring solution of the N-oxide of 3-methyl-2-pyridinesulfonamide (150 mg, 0.79 mmol) and the phenylcarbamate of 4,6-dimethyl-2-aminopyrimidine (194 mg, 0.79 mmol) in 3 mL of CH3CN was added DBU (121 mg, 0.79 mmol). The solution was stirred for 15 minutes. Three mL of H2O, then 3 mL of 5% HCl was added to the reaction and the resulting solid was collected,d m.p. 161°-163° C. NMR (200 MHz, d6 -DMS0) δ 2,36 (s, 6H), 2.59 (s, 3H), 6.97 (s, 1H), 7.4 (d, 1H), 7.5 (d, 1H), 8.3 (d, 1H), 10.6 (br s, 1H) and 13.3 (br s, 1H).

reactant | 3-methyl-2-pyridinesulfonamide | 0.79 mmol, 150 mg | CC=1C(=NC=CC1)S(=O)(=O)N | C6H8N2O2S
reactant | phenylcarbamate | C1(=CC=CC=C1)NC([O-])=O
reactant | 4,6-dimethyl-2-aminopyrimidine | 0.79 mmol, 194 mg | CC1=NC(=NC(=C1)C)N | C6H9N3
reactant | DBU | 0.79 mmol, 121 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | HCl | 3 mL | Cl | ClH
reactant | H2O | Three mL | O | H2O
solvent | CH3CN | 3 mL | CC#N | C2H3N
product | N-[(4,6-Dimethylpyrimidin-2-yl)aminocarbonyl]-3-methyl-2-pyridinesulfonamide-1-oxide | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C=1[N+](=CC=CC1C)[O-] | C13H15N5O4S
